US08426420B2
iv) (S)-3-Methyl-piperazine-1-carboxylic acid ethyl ester
A suspension of 3.5 g (S)-2-Methyl-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-ethyl ester and 0.4 g Pd/C (10%) in 56 ml ethyl acetate was stirred under an atmosphere of hydrogen (3 bar) for 12 h. The mixture was filtrated over a plug of Celite, washed with ethyl acetate and the combined wash solutions concentrated to give the title compound as colourless oil. Yield: 1.6 g.

reactant | (S)-2-Methyl-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-ethyl ester | 3.5 g | C(C)OC(=O)N1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C | C16H22N2O4
solvent | ethyl acetate | 56 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | (S)-3-Methyl-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@@H](NCC1)C | C8H16N2O2
